US03941826
4-Chloro-2,5-diisopropylphenyl methyl sulfide was prepared using the procedure of Example 1C except that 4-chloro-2,5-diisopropylbenzenethiol was substituted for the 4-bromo-2,5-diisopropylbenzenethiol. The resulting product had a boiling point of 88°C at 0.35 mm Hg.

reactant | 4-chloro-2,5-diisopropylbenzenethiol | ClC1=CC(=C(C=C1C(C)C)S)C(C)C | C12H17ClS
reactant | 4-bromo-2,5-diisopropylbenzenethiol | BrC1=CC(=C(C=C1C(C)C)S)C(C)C | C12H17BrS
product | 4-Chloro-2,5-diisopropylphenyl methyl sulfide | CSC1=C(C=C(C(=C1)C(C)C)Cl)C(C)C | C13H19ClS
